US04352811
3-{3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)piperidyl]propyl}-2-methylindole
A stirred mixture of 3.1 g of 2-methyl-3-(3-phenylsulfonylpropylindole, 2.1 g of 6-fluoro-3-(4-piperidyl)-1,2-benzisoxazole hydrochloride, 6.3 g of potassium carbonate and 50 ml of 2-butanone was heated under reflux for 24 hrs. The reaction mixture was poured into water and the aqueous mixture was extracted with dichloromethane. The organic extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The resultant oil was triturated with isopropyl ether and the solid was collected. The solid was combined with a 1.6 g sample of previously prepared material and the combined sample was chromatographed on 100 g silica gel, using 2% methanol-chloroform as eluent. The eluent was evaporated and the solid was dissolved in 125 ml toluene and a saturated hydrogen chloride-toluene solution was added until no more precipitate formed. The precipitate was filtered and dried. Recrystallization from acetone afforded 2.7 g (31.5%) of product, mp 208°-210°.

reactant | 3-phenylsulfonylpropylindole | C1(=CC=CC=C1)S(=O)(=O)CCCC=1NC2=CC=CC=C2C1 | C17H17NO2S
reactant | 6-fluoro-3-(4-piperidyl)-1,2-benzisoxazole hydrochloride | 2.1 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | potassium carbonate | 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 50 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 3-{3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)piperidyl]propyl}-2-methylindole | 2.7 g, 31.5% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCC2=C(NC3=CC=CC=C23)C)C=C1 | C24H26FN3O
